US06353017B1
E. N-[1-(cyanomethyl-carbamoyl)-cyclohexyl]-4-imidazol-1-ylmethyl-benzamide
N-[1-(cyanomethyl-carbamoyl)-cyclohexyl]-4-bromomethyl-benzamide (0.34 mmol) is dissolved in THF (2 ml) and sodium-imidazol (0.41 mmol) is added and the reaction mixture stirred at RT over night. After evaporation of the solvent, the residue is extracted with ethyl acetate. The extract is washed with water, dried over magnesium sulfate and evaporated. The residue was suspended in diethylether and the solid filtered of. The crude product is purified by chromatography on silica using CH2Cl2/MeOH=9:1. The fractions containing the pure product were collected and evaporated. The residue was suspended in diethylether and the solid filtered of. A white powder with mp. 194-196° C., Rf=0.28 (CH2Cl2/MeOH=9:1) is obtained.

reactant | N-[1-(cyanomethyl-carbamoyl)-cyclohexyl]-4-bromomethyl-benzamide | 0.34 mmol | C(#N)CNC(=O)C1(CCCCC1)NC(C1=CC=C(C=C1)CBr)=O | C17H20BrN3O2
reactant | sodium-imidazol | 0.41 mmol | N1C=NC=C1.[Na]
solvent | THF | 2 ml | C1CCOC1 | C4H8O
product | N-[1-(cyanomethyl-carbamoyl)-cyclohexyl]-4-imidazol-1-ylmethyl-benzamide | C(#N)CNC(=O)C1(CCCCC1)NC(C1=CC=C(C=C1)CN1C=NC=C1)=O | C20H23N5O2
